US06548448B2
To a solution of 11.4 g (0.0494 mol) of 1-(2-bromo-allyl)-4-chloro-benzene in 20 ml of bromoform was added 0.686 g (0.00213 mol) tetrabutylammonium bromide. After heating to 58.5° C. for an hour, 10.7 ml (0.0494 mol) of 50% aqueous sodium hydroxide was added. This was repeated seven times over two days. After cooling to room temperature there was added hexanes and water. This mixture was gravity filtered through qualitative fluted filter paper. The resulting mixture was transferred to a separatory funnel and the phases were separated. The organic layer was dried over MgSO4 and filtered. The solvent was removed from the filtrate in vacuo. This residue was purified by column chromatography with hexanes to give 2.3 g of 2-(4-chlorophenylmethyl)-1,1,2-tribromocyclopropane.

reactant | 1-(2-bromo-allyl)-4-chloro-benzene | 0.0494 mol, 11.4 g | BrC(CC1=CC=C(C=C1)Cl)=C | C9H8BrCl
reactant | sodium hydroxide | 0.0494 mol, 10.7 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | bromoform | 20 ml | C(Br)(Br)Br | CHBr3
catalyst | tetrabutylammonium bromide | 0.00213 mol, 0.686 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(4-chlorophenylmethyl)-1,1,2-tribromocyclopropane | 2.3 g | ClC1=CC=C(C=C1)CC1(C(C1)(Br)Br)Br | C10H8Br3Cl
